US07410963B2
3-(8-Methoxy-1-methyl-2-oxo-7-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile
To 5 mL of degazed DMF were added 3-(7-bromo-8-methoxy-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile Intermediate 9 (200 mg, 0.52 mmol), benzene boronic acid (160 mg, 1.32 mmoles), tripotassium phosphate (300 mg, 1.42 mmol), Pd(PPh3)4 (30 mg, 0.03 mmoles). The mixture was stirred for 16 hours at 120° C. under nitrogen atmosphere. The working solution was diluted ten times with water and extracted three times with ethyl acetate. The organic phase was dried over Na2SO4 and concentrated until dryness. The residue was chromatographied: eluant: CH2Cl2/Et2O: 1/1. The obtained compound was crystallised from ether/pentane to afford the title compound (118 mg): white solid, (yield=60%).

reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | 3-(7-bromo-8-methoxy-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile | BrC1=CC2=C(N(C(CN=C2C=2C=C(C#N)C=CC2)=O)C)C=C1OC | C18H14BrN3O2
reactant | benzene boronic acid | 1.32 mmoles, 160 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | tripotassium phosphate | 1.42 mmol, 300 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.03 mmoles, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(8-Methoxy-1-methyl-2-oxo-7-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile | 118 mg, yield=60% | COC=1C(=CC2=C(N(C(CN=C2C=2C=C(C#N)C=CC2)=O)C)C1)C1=CC=CC=C1 | C24H19N3O2
